US06177423B1
5-Dimethylthiocarbamoyloxy-2-benzyloxy-benzo[de]isoquinoline-1,3-dione
A solution of excess dimethylthiocarbamoyl chloride in DMF (20 mL) was added to a mixture of 2-benzyloxy-5-hydroxy-benzo[de]isoquinoline-1,3-dione (3.5 g, 11.0 mmol) and sodium hydroxide (0.9 g, 22 mmol) in water (50 mL) at 0° C. The mixture was stirred vigorously at room temperature for 2 hours. The solid formed was filtered, washed with water, and dried. The crude product (0.5 g) was purified by column chromatography (silica gel using 2% methanol in chloroform). Fractions containing the target compound were combined, concentrated, and recrystallized from chloroform:ether mixture to give 0.3 g of the title compound, mp 211-214° C.;

reactant | dimethylthiocarbamoyl chloride | CN(C(=S)Cl)C | C3H6ClNS
reactant | 2-benzyloxy-5-hydroxy-benzo[de]isoquinoline-1,3-dione | 11.0 mmol, 3.5 g | C(C1=CC=CC=C1)ON1C(C2=CC=CC=3C2=C(C1=O)C=C(C3)O)=O | C19H13NO4
reactant | sodium hydroxide | 22 mmol, 0.9 g | [OH-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 5-Dimethylthiocarbamoyloxy-2-benzyloxy-benzo[de]isoquinoline-1,3-dione | 0.3 g | CN(C(=S)OC=1C=C2C3=C(C(N(C(C3=CC=C2)=O)OCC2=CC=CC=C2)=O)C1)C | C22H18N2O4S
